US08748412B2
3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluoro-phenyl}-2-[(5-p-tolyl-furan-2-carbonyl)-amino]-propionic acid 6
2-Amino-3-{4-[5-(4-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}propionic acid ethyl ester. To a stirring solution of 3-{4-[5-(4-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}-2-(9H-fluoren-9-ylmethoxycarbonylamino)propionic acid ethyl ester (8.25 g, 12 mol) in DMF (10 mL) was added morpholine (30 mL). The solution was stirred for 2 hrs at room temperature. The solution was then concentrated and extracted with EtOAc (3×100 mL). The combined organic layers were washed sequentially with brine and dried over anhydrous Na2SO4, and concentrated under reduced pressure. The crude was purified by column chromatography (PE/EtOAc, 2/1) to give the title compound (4.1 g, 72.7% yield) as a light yellow solid. 1H-NMR (400 MHz, DMSO-d6): δ 9.91 (s, 1H), 8.08 (d, J=8.8 Hz, 2H), 7.99 (t, J=8.0 Hz, 1H), 7.32 (d, J=8.8 Hz, 1H), 7.27 (d, J=8.0 Hz, 1H), 4.02-4.08 (m, 2H), 3.63 (t, J=6.8 Hz, 1H), 2.85-2.99 (m, 2H), 1.50 (s, 9H), 1.13 (t, J=6.8 Hz, 3H); EI-MS (m/z): 469 (M−H)−.

reactant | 2-Amino-3-{4-[5-(4-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)NC(=O)OC(C)(C)C)F)N)=O | C24H27FN4O5
reactant | 3-{4-[5-(4-tert-butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}-2-(9H-fluoren-9-ylmethoxycarbonylamino)propionic acid ethyl ester | 12 mol, 8.25 g | C(C)OC(C(CC1=CC(=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)NC(=O)OC(C)(C)C)F)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C39H37FN4O7
reactant | morpholine | 30 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluoro-phenyl}-2-[(5-p-tolyl-furan-2-carbonyl)-amino]-propionic acid | 4.1 g, 72.7% yield | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)C1=NC(=NO1)C1=C(C=C(C=C1)CC(C(=O)O)NC(=O)C=1OC(=CC1)C1=CC=C(C=C1)C)F | C34H31FN4O7
